US04431653
4-[2-(4,5-Dihydro-1H-imidazol-2-yl)ethyl]piperidine
A mixture containing 4-(2-cyanoethyl)-1-piperidinecarboxaldehyde (10 g, 0.06 M) and ethylenediamine p-toluenesulfonate (30 g, 0.129 M) were heated at 200° C. for 41/2 hours. Crystallization of the crude reaction mixture from isopropanol (70 ml) yielded the desired product as the di-p-toluenesulfonate salt (14 g). The salt was then basified with 2 equivalents of MeONa and distilled (0.2 mmHg, 170° C.) to give 4-[2-(4,5-dihydro-1H-imidazol-2-yl)ethyl]piperidine (4.1 g, 37% yield).

reactant | 4-(2-cyanoethyl)-1-piperidinecarboxaldehyde | 0.06 M, 10 g | C(#N)CCC1CCN(CC1)C=O | C9H14N2O
reactant | ethylenediamine p-toluenesulfonate | 0.129 M, 30 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(CN)N
product | 4-[2-(4,5-Dihydro-1H-imidazol-2-yl)ethyl]piperidine | N1C(=NCC1)CCC1CCNCC1 | C10H19N3
